US08183380B2
rac-N-[2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-isobutyramide
The title compound was prepared in accordance with the general method 9 described in example 116 from isobutyryl chloride, triethylamine and rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine; MS: m/e=390.3 (M+H+).

reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | rac-N-[2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-isobutyramide | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)NC(C(C)C)=O | C24H27N3O2
